US06693208B2
The above prepared 5-methoxyacetylsalicylic acid (26.24 g, 0.1250 mol) was placed in a 500 ml round bottomed flask fitted with Argon purge and magnetic stir bar. Methylene chloride (125 ml) and several drops of dimethylformamide were then added. A 60 ml addition funnel was placed atop the flask and thionyl chloride (22.30 g, 0.1874 mol) was added dropwise over a period of 25 minutes. The addition funnel was replaced with a condenser and the reaction mixture was heated at reflux for a period of approximately 1 hour. Heating was stopped and the reaction mixture allowed to cool to room temperature. Excess thionyl chloride and methylene chloride were removed under-vacuum yielding 29.00 g of 5-methoxyacetylsalicyloyl chloride.

reactant | 5-methoxyacetylsalicylic acid | 0.1250 mol, 26.24 g | COCC(=O)C1=CC=C(C(C(=O)O)=C1)O | C10H10O5
reactant | thionyl chloride | 0.1874 mol, 22.30 g | S(=O)(Cl)Cl | Cl2OS
product | 5-methoxyacetylsalicyloyl chloride | 29.00 g | COCC(=O)C1=CC=C(C(C(=O)Cl)=C1)O | C10H9ClO4
